US08492415B2
2,6-Dichloroaniline (1.62 g, 10 mmol) in THF (5 mL) was cooled to −78° C. and treated with n-buthyllithium (8 mL of a 1.6 M solution in hexanes). After brief warming to −40° C. the solution was cooled again before addition of iodomethane (0.9 mL, ˜15 mmol). The mixture was allowed to warm to room temperature before addition of saturated ammonium chloride solution, extraction with ethyl acetate, drying over anhydrous MgSO4 and solvent evaporation. The resulting residue was purified by column chromatography (dichloromethane) to yield N-methyl-2,6-dichloroaniline (1.70 g, 96%). N-Methyl-2,6-dichloroaniline (0.86 g, 4.89 mmol) dissolved in ethyl acetate (10 mL) was added to an ice-cold solution of phosgene (5.0 mL of a 20% solution in toluene). Cooling was removed and the mixture stirred at room temperature for 10 min and then heated to reflux for 30 min. The solvent was removed and replaced by dichloromethane (20 mL) before drop-wise addition to a cooled (−40° C.) mixture of anhydrous hydrazine (0.64 g, 20 mmol) in dichloromethane (20 mL). The mixture was stirred at room temperature for 2 hours before addition of saturated sodium bicarbonate followed by phase separation and solvent removal to yield N-(2,6-dichlorophenyl)-N-methylhydrazinecarboxamide (1.06 g, 93%). The N-methylhydrazinecarboxamide product (500 mg, 2.14 mmol) was stirred with 4-chlorophenyl isocyanate (360 mg, 2.48 mmol) in dichloromethane (10 mL) at room temperature for 3 h. The resulting slurry was cooled (−10° C.), filtered, and washed with cold dichloromethane (10 mL) to give a white powder. A third of the product was treated with POCl3 (3 mL) and heated under reflux for 2½ hours, where after the yellow/brown solution was cooled and added to crushed ice (˜50 g) and neutralized by addition of ammonium hydroxide solution (25% m/V). Filtration and drying gave the crude product as an off-white powder (280 mg) which was purified by silica gel chromatography using 50%-75% EtOAc/hexanes to give 18 (122 mg, 48%).

reactant | 2,6-Dichloroaniline | 10 mmol, 1.62 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | iodomethane | ˜15 mmol, 0.9 mL | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-methyl-2,6-dichloroaniline | 1.70 g, 96% | CNC1=C(C=CC=C1Cl)Cl | C7H7Cl2N
